US09382188B2
D) 2′-fluoro-4-hydroxy-5′-methoxy-[1,1′-biphenyl]-2-carbohydrazide
To a solution of ethyl 2′-fluoro-4-hydroxy-5′-methoxy-[1,1′-biphenyl]-2-carboxylate (1.37 g) in ethanol (15 mL) was added hydrazine monohydrate (4.47 mL), and the mixture was stirred at 95° C. for 46 hr. The reaction mixture was concentrated under reduced pressure and the residue was purified by silica gel column chromatography (ethyl acetate/hexane and then methanol/ethyl acetate) to give the title compound (1.05 g) as a white amorphous solid.

reactant | ethyl 2′-fluoro-4-hydroxy-5′-methoxy-[1,1′-biphenyl]-2-carboxylate | 1.37 g | FC1=C(C=C(C=C1)OC)C=1C(=CC(=CC1)O)C(=O)OCC | C16H15FO4
reactant | hydrazine monohydrate | 4.47 mL | O.NN
solvent | ethanol | 15 mL | C(C)O | C2H6O
product | 2′-fluoro-4-hydroxy-5′-methoxy-[1,1′-biphenyl]-2-carbohydrazide | 1.05 g | FC1=C(C=C(C=C1)OC)C=1C(=CC(=CC1)O)C(=O)NN | C14H13FN2O3
